US04661481
1-{3-{4-[3-(4-Chlorophenyl)propyl]piperazin-1-yl}propyl}3-(4-cyanophenyl)urea dihydrochloride monohydrate
A mixture of 1-(3-chloropropyl)-3-(4-cyanophenyl)urea (3.57 g; 15 mmole), 1-[3-(4-chlorophenyl)propyl]piperazine (3.58 g; 15 mmole), triethylamine (1.52 g; 15 mmole), and ethanol (100 ml) was refluxed for 35 hours. The solvent was removed in vacuo and water added to the residue. The product was extracted with ether, dried, and concentrated in vacuo. The resulting reddish-yellow oil was purified on a silica gel column (methylene chloride/methanol 9:1) to give the product as a free base (2.8 g; 42% yield). The product was dissolved in ether and precipitated with ethereal hydrochloric acid to provide, after recrystallization from water, the title compound as colorless crystals, m.p. 219°-221° C.

reactant | 1-(3-chloropropyl)-3-(4-cyanophenyl)urea | 15 mmole, 3.57 g | ClCCCNC(=O)NC1=CC=C(C=C1)C#N | C11H12ClN3O
reactant | 1-[3-(4-chlorophenyl)propyl]piperazine | 15 mmole, 3.58 g | ClC1=CC=C(C=C1)CCCN1CCNCC1 | C13H19ClN2
reactant | triethylamine | 15 mmole, 1.52 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 1-{3-{4-[3-(4-Chlorophenyl)propyl]piperazin-1-yl}propyl}3-(4-cyanophenyl)urea dihydrochloride monohydrate | 42% yield | O.Cl.Cl.ClC1=CC=C(C=C1)CCCN1CCN(CC1)CCCNC(=O)NC1=CC=C(C=C1)C#N | InChI=1S/C24H30ClN5O.2ClH.H2O/c25-22-8-4-20(5-9-22)3-1-13-29-15-17-30(18-16-29)14-2-12-27-24(31)28-23-10-6-21(19-26)7-11-23;;;/h4-11H,1-3,12-18H2,(H2,27,28,31);2*1H;1H2
